US07700595B2
3-(3-Benzyl-8-trifluoromethyl-cinnolin-4-yl)-phenol
A solution of 3-benzyl-4-bromo-8-trifluoromethyl-cinnoline (1.7 g, 4.6 mmol) and 3-hydroxyphenylboronic acid (0.84 g, 6.0 mmol) and Pd(PPh3)4 (300 mg) and K3PO4 (3.0 g) in dioxane (50 ml) was heated to reflux. After 6 hr, the reaction was cooled and poured into water and extracted with EtOAc. The organic layer was concentrated and the product purified by colum chromatography (eluent 10% EtOAc/Hexane) to give a solid 1.3 g. MS (ES) m/z 381.1.

reactant | 3-benzyl-4-bromo-8-trifluoromethyl-cinnoline | 4.6 mmol, 1.7 g | C(C1=CC=CC=C1)C=1N=NC2=C(C=CC=C2C1Br)C(F)(F)F | C16H10BrF3N2
reactant | 3-hydroxyphenylboronic acid | 6.0 mmol, 0.84 g | OC=1C=C(C=CC1)B(O)O | C6H7BO3
reactant | K3PO4 | 3.0 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | water | O | H2O
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 300 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(3-Benzyl-8-trifluoromethyl-cinnolin-4-yl)-phenol | 1.3 g | C(C1=CC=CC=C1)C=1N=NC2=C(C=CC=C2C1C=1C=C(C=CC1)O)C(F)(F)F | C22H15F3N2O
